US06593333B1
6-(N,N-Diethylcarbamoylmethoxy)-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline
2-Chloro-N,N-diethylacetamide (0.05 g) was added to a mixture of 6-hydroxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline (0.15 g), cesium carbonate (0.3 g) and dimethylacetamide (2 ml) and the reaction mixture was stirred and heated to 100° C. for 18 hours. After cooling to ambient temperature the reaction mixture was partitioned between methylene chloride and water. The organic layer was dried with brine and sodium sulphate, filtered and evaporated. The residual gum was triturated under diethyl ether. There was thus obtained the title compound as a solid (0.04 g, 20%); NMR: 1.05 (t, 3H), 1.4 (t, 3H), 2.13 (s, 3H), 3.35 (m, 4H), 3.51 (m, 4H), 3.7 (m, 4H), 3.95 (s, 3H), 4.91 (s, 2H), 7.11 (m, 1H), 7.18 (s, 1H), 7.24 (s, 1H), 7.29 (m, 1H), 7.6 (m, 1H), 7.77 (m, 2H), 8.26 (m, 2H), 9.3 (broad s, 1H), 10.32 (broad s, 1H); m/s: M+H+ 600.

reactant | 2-Chloro-N,N-diethylacetamide | 0.05 g | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | 6-hydroxy-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | 0.15 g | OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C26H26N6O4
reactant | cesium carbonate | 0.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | 6-(N,N-Diethylcarbamoylmethoxy)-7-methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | 0.04 g, 20% | C(C)N(C(=O)COC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)CC | C32H37N7O5
